US07939528B2
4-[(4-amino-3-nitrophenyl)oxy]benzaldehyde (1.4 g, 5.4 mmol), 10 mL of 96% formic acid and 25 mL of tetrahydrofuran were heated at reflux for approximately 18 hours. The reaction was concentrated and the residue was heated to reflux in 96% formic acid for six hours. The reaction mixture was concentrated to give {4-[(4-formylphenyl)oxy]-2-nitrophenyl}formamide. (M-1) 285.1, 2.22 min (LC/MS method A)

reactant | 4-[(4-amino-3-nitrophenyl)oxy]benzaldehyde | 5.4 mmol, 1.4 g | NC1=C(C=C(C=C1)OC1=CC=C(C=O)C=C1)[N+](=O)[O-] | C13H10N2O4
reactant | formic acid | 10 mL | C(=O)O | CH2O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | {4-[(4-formylphenyl)oxy]-2-nitrophenyl}formamide | C(=O)C1=CC=C(C=C1)OC1=CC(=C(C=C1)NC=O)[N+](=O)[O-] | C14H10N2O5
